US08377923B2
Ethyl 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole-3-carboxylate (251 mg) was suspended in ethanol (5 ml) and a 1M aqueous sodium hydroxide solution (1 ml) was added thereto, followed by stirring for 5 minutes. Water and 1M hydrochloric acid were added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was washed with ethyl acetate to obtain 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole-3-carboxylic acid (207 mg), as a white solid.

reactant | Ethyl 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole-3-carboxylate | 251 mg | CC(C)(OC1=CC=C(C=C1)C1=NC(=NO1)C(=O)OCC)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C24H22F3N5O4
reactant | sodium hydroxide | 1M, 1 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole-3-carboxylic acid | 207 mg | CC(C)(OC1=CC=C(C=C1)C1=NC(=NO1)C(=O)O)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C22H18F3N5O4
